US04469908
At 190° C. o-xylene was alkylated with isobutylene to give 1,2-dimethyl-4-t-butylbenzene. The selectivity was 97% and conversion of the olefin 95%. The reaction was maintained for 48 hours without a decline in catalyst activity.

reactant | isobutylene | CC(C)=C | C4H8
solvent | o-xylene | CC=1C=CC=CC1C | C8H10
product | 1,2-dimethyl-4-t-butylbenzene | CC1=C(C=C(C=C1)C(C)(C)C)C | C12H18
